US05114966
2-(RS)-(2-acetoxyethyl)-2,3-dihydro-5-hydroxy-4,5,7-trimethylbenzofurane
150 mg palladium on 5% carbon is added to a solution of 1.8 g of 2-(RS)-(2-acetoxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane in 25 ml of absolute ethanol. The solution is kept under a hydrogen pressure of 50 psi for one hour at room temperature. After filtration of the catalyzer, on Celite, the solvent is evaporated, leaving 1.3 g of a white solid. m.p. 90°-92° C.; (IR)(KBr) 3389 (νOH), 1738 cm-1 (νCOCH3); 1H-NMR (CDCl3); δ5.1-4.6 (1H,m), 4.2 (2H,t), 3.3-2.7 (2H,m) 2.2 (3H,s), 2.05 (6H,s), 2.0 (3H,s), 2.0-1.8 (2H,m).

reactant | 2-(RS)-(2-acetoxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane | 1.8 g | C(C)(=O)OCCC1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C | C22H26O4
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium | 150 mg | [Pd] | Pd
product | 2-(RS)-(2-acetoxyethyl)-2,3-dihydro-5-hydroxy-4,5,7-trimethylbenzofurane | 1.3 g | C(C)(=O)OCCC1OC2=C(C1)C(C(C=C2C)(C)O)C | C15H22O4
